US08809369B2
To a stirred mixture solution of 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (380.0 mg, 1.0 mmol) in methanol (10.0 mL) and tetrahydrofuran (10.0 mL) was added 50% sodium hydroxide in water (1.5 mL). The reaction mixture was stirred at 70° C. for 6 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×100 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (330.0 mg, 90%) as a light white solid which was used for next step without further purification: MS (ESI) M+1=367.1.

reactant | 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 1.0 mmol, 380.0 mg | COC(=O)C=1C=CC=C2C(CC(NC12)C1=CC(=CC=C1)N1CCOCC1)(C)C | C23H28N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 10.0 mL | CO | CH4O
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 330.0 mg, 90% | CC1(CC(NC2=C(C=CC=C12)C(=O)O)C1=CC(=CC=C1)N1CCOCC1)C | C22H26N2O3
